US08604061B2
To a stirred solution of (S)-4-[(E)-2-(4-chloro-phenyl)-but-1-enyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (820 mg) at r.t. in dioxane (8 ml) was added 4 M HCl solution in dioxane (11.2 ml). The mixture was stirred at 35° C. for 3.5 h. The mixture was then diluted with ethyl acetate and made basic by addition of 2 N aq sodium hydroxide solution. The phases were separated and the organic phase was washed with saturated brine, dried over sodium sulphate and concentrated in vacuo to give (E)-(S)-2-amino-4-(4-chloro-phenyl)-hex-3-en-1-ol (524 mg, quant.) as a yellow oil. MS (ISP): 228.2 ([{37Cl}M+H]+), 226.2 ([{35Cl}M+H]30).

reactant | (S)-4-[(E)-2-(4-chloro-phenyl)-but-1-enyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 820 mg | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1\C=C(/CC)\C1=CC=C(C=C1)Cl)(C)C | C20H28ClNO3
reactant | HCl | 4 M | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 11.2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-(S)-2-amino-4-(4-chloro-phenyl)-hex-3-en-1-ol | 524 mg | N[C@H](CO)\C=C(/CC)\C1=CC=C(C=C1)Cl | C12H16ClNO
